US06660738B2
A solution of 0.68 g (1 mmol) (2S,4R)-5-Bromo-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, 0.28 g (1.1 mmol) bis(pinacolato)diboron, 0.29 g (3 mmol, dried 2 h at 100° C., 0.1 Torr) potassium acetate and 0.024 g (0.03 mmol) PdCl2(dppf) in 12 ml DMF were stirred for 4.5 h at 80° C. The reaction was cooled, treated with 0.195 ml (2 mmol) 2-bromopyridine, 0.024 g (0.03 mmol) PdCl2(dppf) and 2.5 ml aqueous 2 M Na2CO3 solution and heated for 16 h at 80° C. The reaction evaporated (60° C./0.1 torr) and partitioned between water/Et2O (3×). The organic phases were washed with aqueous 10% NaCl and dried over Na2SO4. Purification by flash-chromatography on silica gel (toluene/EtOAc 97.5:2.5) gave 0.125 g (2S,4R)-5-Pyridin-2-yl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, MS: 675 (MH+). TFA/triisopropylsilane deprotection (see General method for S-deprotection, Method D) gave (3R,5S)-1-(5-Pyridin-2-yl-pyrimidin-2-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-3-thiol; compound with trifluoro-acetic acid, MS: 433 (MH+).

reactant | (2S,4R)-5-Bromo-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 1 mmol, 0.68 g | BrC=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C35H29BrF3N3OS
reactant | bis(pinacolato)diboron | 1.1 mmol, 0.28 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3 mmol, 0.29 g | C(C)(=O)[O-].[K+]
reactant | 2-bromopyridine | 2 mmol, 0.195 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.03 mmol, 0.024 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.03 mmol, 0.024 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S,4R)-5-Pyridin-2-yl-2-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 0.125 g | N1=C(C=CC=C1)C=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C40H33F3N4OS
